US04727081
N-[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]-1,3,4-thiadiazole-2,5-diamine
The compound is prepared by a method analogous to that of Example 51 from 3-[3-(1-piperidinylmethyl)phenoxy]-1-propanamine and 5-bromo-1,3,4-thiadiazole-2-amine. The product obtained is identical to the substance described in Example 50.

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]-1-propanamine | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 5-bromo-1,3,4-thiadiazole-2-amine | BrC1=NN=C(S1)N | C2H2BrN3S
product | N-[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]-1,3,4-thiadiazole-2,5-diamine | N1(CCCCC1)CC=1C=C(OCCCNC=2SC(=NN2)N)C=CC1 | C17H25N5OS
